US08669249B2
Methyl 2-(2-fluoro-4-formyl-6-nitrophenoxy)propanoate (264)
Using 3-fluoro-4-hydroxy-5-nitrobenzaldehyde as the phenol and methyl-2-bromopropanoate as the alkylating agent in the general procedure of alkylation of substituted 2-nitrophenols gives a yellow solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 1.56 (d, J=6.57 Hz, 3H) 3.66 (s, 3H) 5.27 (qd, J=6.78, 1.64 Hz, 1H) 8.10-8.18 (m, 1H) 8.31-8.38 (m, 1H) 9.95 (d, J=2.02 Hz, 1H). ESI-MS: m/z 272.1 (M+H)+.

reactant | 3-fluoro-4-hydroxy-5-nitrobenzaldehyde | FC=1C=C(C=O)C=C(C1O)[N+](=O)[O-] | C7H4FNO4
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | methyl-2-bromopropanoate | COC(C(C)Br)=O | C4H7BrO2
product | Methyl 2-(2-fluoro-4-formyl-6-nitrophenoxy)propanoate | FC1=C(OC(C(=O)OC)C)C(=CC(=C1)C=O)[N+](=O)[O-] | C11H10FNO6
